US04868061
0.35 mol diphosgene is added dropwise over 1 hour to a mixture of 0.28 mol of methyl 2-amino-4-pentenoate, prepared as described by D. Ferroud, J. P.Genet, and R. Kiolle in Tetrahedron Letters, 1986, 27, 23-26, and 0.4 g activated charcoal in 400 mL dioxane under N2. The reaction mixture is then heated and stirred at reflux for 21/2 hours. The reaction mixture is then cooled, filtered, and concentrated to dryness by rotary evaporator, keeping exposure to moisture to a minimum. The crude product is re-dissolved in 100 mL THF, and the pH of the solution is adjusted to 5.5-6.0 by addition of pyridine. The product mixture is again filtered, and the product is purified by fractional distillation to give methyl 2-isocyanato-4-pentenoate.

reactant | diphosgene | 0.35 mol | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | methyl 2-amino-4-pentenoate | 0.28 mol | NC(C(=O)OC)CC=C | C6H11NO2
reactant | charcoal | C | CH4
solvent | dioxane | 400 mL | O1CCOCC1 | C4H8O2
product | methyl 2-isocyanato-4-pentenoate | N(=C=O)C(C(=O)OC)CC=C | C7H9NO3
